US08895745B2
Preparation P1: N-(5-Bromo-3-nitro-pyridin-2-yl)-benzene-1,3-diamine
A mixture of 5-bromo-2-chloro-3-nitro-pyridine (2.4 g, 10.1 mmol), benzene-1,3-diamine (2.7 g, 25 mmol) and DIPEA (5.3 ml, 30 mmol) in dry NMP (20 ml) was stirred and heated at 120° C. under N2 for 2 hours. After cooling to RT the mixture was partitioned between EtOAc and H2O. The organic layer was washed with brine (×1) then dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica (10→50% EtOAc/petrol) to give the title compound (2.5 g) as a red solid. 1H NMR (400 MHz, DMSO-d6): 9.78 (1H, s), 8.66 (1H, d), 8.60 (1H, d), 7.00 (1H, t), 6.83-6.71 (2H, m), 6.39 (1H, d), 5.13 (2H, s).

reactant | 5-bromo-2-chloro-3-nitro-pyridine | 10.1 mmol, 2.4 g | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | benzene-1,3-diamine | 25 mmol, 2.7 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | DIPEA | 30 mmol, 5.3 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
product | N-(5-Bromo-3-nitro-pyridin-2-yl)-benzene-1,3-diamine | 2.5 g | BrC=1C=C(C(=NC1)NC1=CC(=CC=C1)N)[N+](=O)[O-] | C11H9BrN4O2
